US08349824B2
To an argon purged solution of 4-(7-bromo-[1,2,4]triazolo[1,5-a]pyridin-2-yl)morpholine (321 mg, 1.13 mmol) in dioxane (8 ml) are added tert-butyl carbamate (159 mg, 1.36 mmol), tris(dibenzylideneacetone)dipalladium(0) (20.8 mg, 22.7 μmol), 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene (26.2 mg, 45.4 μmol) and cesium carbonate (517 mg, 1.59 mmol). The reaction vessel is sealed and heated to 110° C. for 20 hours. The crude material is applied on silica and purified by flash chromatography on a 20 g silica column using heptane/ethyl acetate 10-70% as eluent affording tert-butyl 2-morpholino-[1,2,4]triazolo[1,5-a]pyridin-7-ylcarbamate (365 mg, 101%) as a light yellow solid. mp.: 92-3° C. MS: m/z=320.1 (M+H+).

reactant | 4-(7-bromo-[1,2,4]triazolo[1,5-a]pyridin-2-yl)morpholine | 1.13 mmol, 321 mg | BrC1=CC=2N(C=C1)N=C(N2)N2CCOCC2 | C10H11BrN4O
reactant | tert-butyl carbamate | 1.36 mmol, 159 mg | C(N)(OC(C)(C)C)=O | C5H11NO2
reactant | cesium carbonate | 1.59 mmol, 517 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | dioxane | 8 ml | O1CCOCC1 | C4H8O2
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 22.7 μmol, 20.8 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene | 45.4 μmol, 26.2 mg | C1(=CC=CC=C1)P(C1=CC=CC=2C(C3=CC=CC(=C3OC12)P(C1=CC=CC=C1)C1=CC=CC=C1)(C)C)C1=CC=CC=C1 | C39H32OP2
product | tert-butyl 2-morpholino-[1,2,4]triazolo[1,5-a]pyridin-7-ylcarbamate | 365 mg, 101% | O1CCN(CC1)C1=NN2C(C=C(C=C2)NC(OC(C)(C)C)=O)=N1 | C15H21N5O3
